US04242256
O-Acetyl-N-phthaloyltyrosine (m.p. 176°-179° C., prepared in 81% yield by treating N-phthaloyltyrosine with acetic anhydride in pyridine; the N-phthaloyltyrosine being prepared in 91% yield from N-carbethoxyphthalimide, triethylamine and L-tyrosine in dimethyl sulphoxide in view of the poor solubility of L-tyrosine in water) is treated substantially by the procedure described in Example 1 (1) to give 4-(4-acetoxyphenyl)-3-phthalimidobutanoic acid in 49% yield, m.p. 151°-153.5° C.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-carbethoxyphthalimide | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | L-tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-acetoxyphenyl)-3-phthalimidobutanoic acid | 49% yield | C(C)(=O)OC1=CC=C(C=C1)CC(CC(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C20H17NO6
